US05508293
Example 1 Preparation of 5-amino-N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide
To a solution of 2-nitroxyethylamine hydrochloride (140 mg, 0.98 mmol) in DMF (1 ml) was added sodium methoxide (42 mg, 0.78 mmol) followed by a solution of propyl 5-amino-N-cyano-3-pyridinecarboximidate (100 mg, 0.49 mmol) in methanol (1 ml) described in Example 6 of Experimental Example 1, and the mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction mixture was evaporated under reduced pressure. The residue was suspended in water and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography with a mixed solvent of methanol and chloroform as an eluent to give the title compound (77 mg, yield 63%) as colorless crystals.

reactant | 2-nitroxyethylamine hydrochloride | 0.98 mmol, 140 mg | Cl.O([N+](=O)[O-])CCN
reactant | sodium methoxide | 0.78 mmol, 42 mg | C[O-].[Na+]
reactant | propyl 5-amino-N-cyano-3-pyridinecarboximidate | 0.49 mmol, 100 mg | NC=1C=C(C=NC1)C(OCCC)=NC#N | C10H12N4O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | 5-amino-N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide | 77 mg, yield 63% | NC=1C=C(C=NC1)C(NC#N)=NCCO[N+](=O)[O-] | C9H10N6O3
